Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Vicodin / Prochlorperazine / Phenergan / Percocet / Benadryl 
Allergy / Tizanidine
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
1. Removal of hardware, T11, T12, L1.
2. Exploration of spinal fusion, T11-12, T12-L1.

 
History of Present Illness:
___ female who was treated her in ___ when she 
presented with an unstable thoracic spine injury/Chance fracture 
at T12. This required urgent surgical treatment, which is a 
decompression and fusion with instrumentation from T12 through 
L1. Postoperatively, she maintained her neurological function, 
with no residual spinal cord symptoms, and also healed her 
fractures ultimately. She presents now because she has 
considerable back pain, tenderness, with prominence of the 
stabilizing implants. Dr. ___ provide her with 
injections that provided short-term relief around the hardware, 
and also provocative tests to demonstrate that the hardware has
significantly contribueted to her pain. Ms. ___ also has a 
long history of difficulty with narcotics, and also significant 
psychosocial life stressors that are likely contributing to her 
pain. This has been longer recognized by her psychiatrist in 
conjunction with us in the past. Before she was injured years 
ago, her husband died. More recently, her daughter has also 
died. By report from the patient, her daughter was actually 
murdered. This is contributing significantly to her psychosocial 
stressors, and I suspect this is significant component of her 
pain experienced. Regardless, she certainly has severe 
significant tenderness over the hardware, which is palpable 
bilaterally. They also seem to be prominent on the CT scan. The 
CT scan is very helpful and showing that the fracture is healed, 
fusion has mended, and there is no lucency around the hardware 
to indicate migration or fatigue. She presents now for removal 
of hardware
 
 
Past Medical History:
back pain 
adjustement disorder
 
Social History:
___
Family History:
see admit H&P
 
Physical Exam:
Physical ___
General:Well appearing in NAD sitting up in chair,pleasant
Heart:RRR
Lungs:CTAB
Abd:soft,ntnd,+bs's
Extremities:wwp,2+rad/2+dp pulses
___ throughout BLE ___
+SILT b/l
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure. Refer to 
the dictated operative note for further details. The surgery was 
without complication and the patient was transferred to the PACU 
in a stable condition.  TEDs/pnemoboots were used for 
postoperative DVT prophylaxis. Intravenous antibiotics were 
continued for 24hrs postop per standard protocol. Initial postop 
pain was controlled with a PCA. Diet was advanced as tolerated. 
The patient was transitioned to oral pain medication when 
tolerating PO diet. Physical therapy was consulted for 
mobilization OOB to ambulate. Hospital course was otherwise 
unremarkable. On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet.

 
Medications on Admission:
Fentanyl Patch 
Oxycodone
Nexium
naproxen
Ibuprofen
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H pain 
may take over the counter, no more than 4G/24H 
2. Diazepam ___ mg PO Q6H:PRN pain or spasm 
RX *diazepam 5 mg ___ tablets by mouth every six (6) hours Disp 
#*60 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0
4. Fentanyl Patch 200 mcg/h TD Q48H pain Duration: 1 Dose 
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
Please do not operate heavy machinery,drink alcohol or drive 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*100 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Retained thoracolumbar hardware.
2. Prior thoracolumbar burst fracture.
3. Likely healed spinal fusion.
4. Healed spinal fusion.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Removal of ThoracoLumbar Hardware
You have undergone the following operation: Removal of Spinal 
Hardware
Immediately after the operation:
•                Activity: You should not lift anything greater 
than 10 lbs for 2 weeks. You will be more comfortable if you do 
not sit or stand more than ~45 minutes without moving around.
•                Rehabilitation/ Physical Therapy:
___                ___ times a day you should go for a walk 
for ___ minutes as part of your recovery.  You can walk as 
much as you can tolerate.
___                Limit any kind of lifting.
•                Diet: Eat a normal healthy diet. You may have 
some constipation after surgery.  You have been given medication 
to help with this issue.
•                Wound Care: Remove the dressing in 2 days.  If 
the incision is draining cover it with a new sterile dressing.  
If it is dry then you can leave the incision open to the air.  
Once the incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing and call the office.
•                You should resume taking your normal home 
medications.
•                You have also been given Additional Medications 
to control your pain. Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.  You can either 
have them mailed to your home or pick them up at the clinic 
located on ___ 2.  We are not allowed to call in or fax 
narcotic prescriptions (oxycontin, oxycodone, percocet) to your 
pharmacy.  In addition, we are only allowed to write for pain 
medications for 90 days from the date of surgery.
•                Follow up:            
Please Call the office and make an appointment for 2 weeks after 
the day of your operation if this has not been done already.
___                At the 2-week visit we will check your 
incision, take baseline X-rays and answer any questions. We may 
at that time start physical therapy.
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

 

 

Physical Therapy:
-Weight bearing as tolerated
-Gait, balance training
-No significant bending/twisting
-No brace needed

Treatments Frequency:
Remove the dressing in 2 days.  If the incision is draining 
cover it with a new sterile dressing.  If it is dry then you can 
leave the incision open to the air.  Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool.  If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing and call 
the office.

 
Followup Instructions:
___